US04507498
A mixture of 2 g (0.0088 mol) of 1-(5-chloro-2,4-dihydroxy-3-propylphenyl)ethanone, 3.39 g (0.0088 mol) of [4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]acetic acid methyl ester and 1.8 g (0.013 mol) of anhydrous potassium carbonate in 150 ml of anhydrous acetone was stirred at reflux for 20 hours. An additional 1.0 g of potassium carbonate was added and reflux was continued for a total of 35 hours. The hot reaction mixture was filtered and filtrate was concentrated in vacuo to an oil which was dissolved in ethyl acetate and washed with 1N sodium hydroxide and sodium chloride solution. The crude oil obtained on concentration of the ethyl acetate solution was purified by HPLC, eluting with 30% ethyl acetate in hexane to yield 2.7 g (58% yield) of [4-acetyl-3-[3-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid methyl ester as a pale yellow oil.

reactant | 1-(5-chloro-2,4-dihydroxy-3-propylphenyl)ethanone | 0.0088 mol, 2 g | ClC=1C(=C(C(=C(C1)C(C)=O)O)CCC)O | C11H13ClO3
reactant | [4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]acetic acid methyl ester | 0.0088 mol, 3.39 g | COC(COC1=C(C(=C(C=C1)C(C)=O)OCCCBr)CCC)=O | C17H23BrO5
reactant | potassium carbonate | 0.013 mol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | [4-acetyl-3-[3-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid methyl ester | 2.7 g, 58% yield | COC(COC1=C(C(=C(C=C1)C(C)=O)OCCCOC1=C(C(=C(C=C1Cl)C(C)=O)O)CCC)CCC)=O | C28H35ClO8
